US08258131B2
Preparation of N-[5-fluoro-4-(4-fluorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-yl]methanesulfonamide
Methanesulfonylchloride (93 μL) was added dropwise to a solution of 5-fluoro-4-(4-fluorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-amine (a compound of Reference Example 2, 87 mg) in pyridine (2 mL), and said mixture was stirred at 40° C. overnight. The reaction mixture was concentrated in vacuo, and the residue was dissolved in chloroform. The solution was washed successively with water, 10% hydrochloric acid and brine, filtered through a column of porous diatomite [Chem Elut (trade name), Varian Inc.], and the filtrate was concentrated in vacuo. The resulted residue was purified by column chromatography on silica gel (Solvent: n-hexane/ethyl acetate=85/15 to 30/70) to give the titled compound (21 mg) as a colorless powder.

reactant | Methanesulfonylchloride | 93 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-fluoro-4-(4-fluorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-amine | FC1=CC(=CC2=C1C(=NC(O2)(C)C)C2=CC=C(C=C2)F)N | C16H14F2N2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-fluoro-4-(4-fluorophenyl)-2.2-dimethyl-2H-1,3-benzoxazin-7-yl]methanesulfonamide | 21 mg | FC1=CC(=CC2=C1C(=NC(O2)(C)C)C2=CC=C(C=C2)F)NS(=O)(=O)C | C17H16F2N2O3S
